US06329546B1
Synthesis of 7-chloro-3-methylcarbostyril
In a 50-ml Erlenmeyer flask made of quartz, 10 ml of (E) ethyl 3-(2-amino-4-chlorophenyl)-2-methyl-2-propenate were dissolved in 10 ml of ethanol; and, while being stirred, the mixture was irradiated with ultraviolet rays at 256 nm for 72 hours. The reaction liquid was concentrated under a reduced pressure, and the resulting crude crystal was recrystallized from ethanol, whereby the aimed compound was obtained.

reactant | ethyl 3-(2-amino-4-chlorophenyl)-2-methyl-2-propenate | NC1=C(C=CC(=C1)Cl)C=C(C(=O)OCC)C | C12H14ClNO2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-chloro-3-methylcarbostyril | ClC1=CC=C2C=C(C(NC2=C1)=O)C | C10H8ClNO
